US06951879B2
150 mg (0.34 mmol) Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester in 1.5 ml DMF w ere treated with 140 μl (1.7 mmol) N-allylmethylamine at 50° C. for 4 h. The solution was diluted with ether and water, the organic phase was washed with 0.5 M NaOH, and dried over Na2SO4. Column chromatography on silica gel gave 80 mg (56%) 2-(Methyl-{5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-amino)-ethanol as light yellow, MS: 419(MH+).

reactant | Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | 0.34 mmol, 150 mg | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C)(F)F | C20H16F3NO3S2
reactant | N-allylmethylamine | 1.7 mmol, 140 μl | C(C=C)CN | C4H9N
reactant | ether | CCOCC | C4H10O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(Methyl-{5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-amino)-ethanol | 80 mg, 56% | CN(CCO)CCCC#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C22H21F3N2OS
